US09403831B2
(S)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)-4-(5-(1-methylpiperidin-4-yl)pyrimidin-2-yl)morpholine (Chemical Formula 20)
(S)-4-(5-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)pyrimidin-2-yl)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholine 75 mg (0.16 mmol) was dissolved in methanol 3 ml and methylene chloride 2 ml, and an excess of platinum oxide was added. The mixture was degassed, and a hydrogen balloon was connected, followed by reaction at room temperature for 1 day. After the reaction, the platinum oxide was removed using a celite filter, and separated by PLC (methylene chloride:methanol=5:1) to give a yellow solid 13.3 mg (18%).

reactant | (S)-4-(5-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)pyrimidin-2-yl)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholine | 0.16 mmol, 75 mg | CN1CCC(=CC1)C=1C=NC(=NC1)N1C[C@H](OCC1)CN1N=NC=2C1=NC(=CN2)C=2C=NN(C2)C | C23H27N11O
solvent | methanol | 3 ml | CO | CH4O
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | platinum oxide | [Pt]=O
product | (S)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)-4-(5-(1-methylpiperidin-4-yl)pyrimidin-2-yl)morpholine | 13.3 mg, 18% | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@@H]2CN(CCO2)C2=NC=C(C=N2)C2CCN(CC2)C | C23H29N11O
